US06251925B1
(R)-3′-[[2-[[2-(3-Chlorophenyl)-2-hydroxyethyl]amino]ethyl]amino]-[1,1′-biphenyl]-3-carbonitrile dihydrochloride as a white solid (105 mg);
m.p. 191-206° C.; from (R)-3′-[[2-[[2-(3-chlorophenyl)-2-[[(tert-butyl)dimethylsilyl]oxy]ethyl][(tert-butoxy)carbonyl]amino]ethyl]amino]-[1,1′-biphenyl]-3-carbonitrile (173 mg) in 4 N hydrochloric acid in dioxane (10 mL).

reactant | (R)-3′-[[2-[[2-(3-chlorophenyl)-2-[[(tert-butyl)dimethylsilyl]oxy]ethyl][(tert-butoxy)carbonyl]amino]ethyl]amino]-[1,1′-biphenyl]-3-carbonitrile | 173 mg | ClC=1C=C(C=CC1)[C@H](CN(CCNC=1C=C(C=CC1)C1=CC(=CC=C1)C#N)C(=O)OC(C)(C)C)O[Si](C)(C)C(C)(C)C | C34H44ClN3O3Si
solvent | hydrochloric acid | 4 N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (R)-3′-[[2-[[2-(3-Chlorophenyl)-2-hydroxyethyl]amino]ethyl]amino]-[1,1′-biphenyl]-3-carbonitrile dihydrochloride | Cl.Cl.ClC=1C=C(C=CC1)[C@H](CNCCNC=1C=C(C=CC1)C1=CC(=CC=C1)C#N)O | InChI=1S/C23H22ClN3O.2ClH/c24-21-8-2-7-20(13-21)23(28)16-26-10-11-27-22-9-3-6-19(14-22)18-5-1-4-17(12-18)15-25;;/h1-9,12-14,23,26-28H,10-11,16H2;2*1H/t23-;;/m0../s1
